US05532235
2-Chloro-5-(methylthio)benzoyl chloride
A mixture of 2.03 g of 2-chloro-5-(methylthio)benzoic acid and 10 ml of thionyl chloride is heated on a steam bath for 1 hour. The volatiles are removed under vacuum and 20 ml of toluene added and removed under vacuum (2 times) to give 2.2 g of brown needles.

reactant | 2-chloro-5-(methylthio)benzoic acid | 2.03 g | ClC1=C(C(=O)O)C=C(C=C1)SC | C8H7ClO2S
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloro-5-(methylthio)benzoyl chloride | 2.2 g | ClC1=C(C(=O)Cl)C=C(C=C1)SC | C8H6Cl2OS
